US04638068
Preparation of 3-Bromo-α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetonitrile
To a solution of α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetonitrile (50 g, 0.25 mol) in acetic acid (500 ml) heated at 75° C. is added bromine (40.76 g, 0.255 mol) in acetic acid (80 ml) dropwise with stirring. The reaction is maintained at 85° overnight and evaporated to a syrup, which is dissolved in methylene chloride (300 ml), is cooled to 5° C. to which triethylamine (34.78 ml) is added. After stirring for 2 hours the brown methylene chloride solution is diluted with ether and a white precipitate is formed. This is extracted with water (400 ml) and the organic layer is dried over anhydrous magnesium sulfate, then passed through a 2 inch bed of silica gel with methylene chloride to elute. The eluate is obtained as a dark brown oil. Anal. Calcd. for C10H10N2O2Br: C, 44.29; H, 4.09; N, 10.33. Found: C, 43.37; H, 4.05; N, 10.07.

reactant | α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetonitrile | 0.25 mol, 50 g | C(C)(C)C(C#N)(N1C(C=CC1=O)=O)C | C10H12N2O2
reactant | bromine | 0.255 mol, 40.76 g | BrBr | Br2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 3-Bromo-α-isopropyl-α-methyl-2,5-dioxo-3-pyrroline-1-acetonitrile | BrC=1C(N(C(C1)=O)C(C#N)(C)C(C)C)=O | C10H11BrN2O2
